US05550149
2-[6-(3,4-Dimethoxyphenyl)-6-hydroxy-1-oxooctyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline
A mixture of 3.0 g of 2-[6-(3,4-dimethoxyphenyl)-1,6-dioxohexyl-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline and 15.0 mL of ethyl magnesium bromide (1M) in tetrahydrofuran in 20.0 mL of anhydrous tetrahydrofuran is stirred at room temperature overnight. The mixture is poured into a mixture of ice and saturated solution of ammonium chloride and extracted with diethyl ether. The diethyl ether extract is washed with brine, dried, filtered. The filtrate is evaporated to afford 3.0 g of the desired product as a colorless oil.

reactant | 6-(3,4-dimethoxyphenyl)-1,6-dioxohexyl-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | COC=1C=C(C=CC1OC)C1(CC=2CCNC(C2C=C1OC)C(CCCCC=O)=O)OC | C25H33NO6
reactant | ethyl magnesium bromide | 1M, 15.0 mL | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20.0 mL | O1CCCC1 | C4H8O
product | 2-[6-(3,4-Dimethoxyphenyl)-6-hydroxy-1-oxooctyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 3.0 g | COC=1C=C(C=CC1OC)C(CCCCC(=O)N1CC2=CC(=C(C=C2CC1)OC)OC)(CC)O | C27H37NO6
